* This is a copy of the LM7905 from regulators.lib.
* R22 changed from 500 -> 10.63k
*
.SUBCKT LM7915  1    2    3            
DD4           4   5   D_6V3_0 
DD2           6   2   D_3V9_0 
DD1           7   2   D_4V7_0 
DD3           8   3   D_6V3_0 
C2            9  10  5P
C1            2   9  15P
QTU15         10   9   3   Q_PNP_0 1.000
R17          11  12  4.2K
QTU22          3  10  13   Q_NPN_0 3.000
R18           8   5  15.65K
R20          13  14  1K
R19           4  14  75
QTU31         12  11   4   Q_NPN_1 1.000
R16          15   1  160
R24          16   1  1.8K
C3           17   1  10P
QTU30         18  12  15   Q_NPN_1 1.000
QTU29         10  16   1   Q_NPN_1 1.000
R15          19   1  400
QTU28         10  20  19   Q_NPN_1 1.000
R14          21   1  200
QTU27         17  20  21   Q_NPN_1 1.000
R11          22  23  1K
R10          24  25  1K
QTU19         18  27  26   Q_NPN_1 1.000
R9            2  18  7.1K
QTU8          16  18   2   Q_PNP_0 1.000
QTU7          28  18   2   Q_PNP_0 1.000
QTU6          18  18   2   Q_PNP_0 1.000
QTU5          11  29   2   Q_PNP_0 1.000
QTU4          20  29   2   Q_PNP_0 1.000
QTU3           1  29   2   Q_PNP_0 1.000
QTU2           1  29   2   Q_PNP_0 1.000
R13          28   1  400
R12          30   1  400
QTU18         29  29  31   Q_NPN_1 1.000
QTU1          29  29   2   Q_PNP_0 1.000
R6           31  32  6.5K
R7           32  27  5.6K
R8           27  26  950
QTU10         33   6  26   Q_PNP_0 1.000
QTU17         34  35  33   Q_PNP_0 1.000
R5           36   1  2K
QTU24         34  34  36   Q_NPN_1 1.000
R1           37   6  6.3K
R2           37  38  670
R3           38  35  550
QTU9          38  35   6   Q_PNP_0 1.000
R4           39   1  2K
QTU23         35  34  39   Q_NPN_1 1.000
QTU16          1   7  35   Q_PNP_0 1.000
JT1           7   1   1  J_2N3458_N 
QTU14          3  17  23   Q_PNP_0 1.000
QTU13         17  17  23   Q_PNP_0 1.000
QTU12         17  17  25   Q_PNP_0 1.000
QTU11          9  17  25   Q_PNP_0 1.000
QTU32          3  13  14   Q_NPN_2 10.000
QTU26          9  20  28   Q_NPN_1 1.000
QTU25         20  20  30   Q_NPN_1 1.000
QTU21          2  40  22   Q_NPN_1 1.000
QTU20          2  37  24   Q_NPN_1 1.000
R21           2  40  4.29K
R22          40   3  10.63k
R23          14   1  500M

.MODEL J_2N3458_N NJF( VTO=-3.05 BETA=699.53U LAMBDA=6M RD=1 RS=1 
+      CGD=2.81P CGS=2.91P M=227.1M PB=500M IS=114.41F 
+      VTOTC=-2.5M BETATCE=-500M KF=0 AF=1 )
.MODEL D_6V3_0  D( IS=10F N=1.24 BV=6.3 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_3V9_0  D( IS=10F N=1.24 BV=3.9 IBV=1M CJ0 = 1P TT = 10p )
.MODEL D_4V7_0  D( IS=10F N=1.24 BV=4.7 IBV=1M CJ0 = 1P TT = 10p )
.MODEL Q_PNP_0  PNP( IS=10F NF=1.04 NR=1.04 BF=50 CJC=1P CJE=2P
+      TF=10P TR=1N VAF=45)
.MODEL Q_NPN_0  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_1  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.MODEL Q_NPN_2  NPN( IS=10F NF=1.04 NR=1.04 BF=100 CJC=1P CJE=2P
+       TF=10P TR=1N VAF=90)
.ENDS LM7915
